US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic acid
The title compound was prepared from 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid as in Example 1, Part C, followed by hydrolysis of the resulting methyl ester as in EXAMPLE 2, Part E. HPLC: RT=10.05 min. MS (ESI−): mass calcd. for C22H15Br2ClN4O5S2, 674.77; m/z found, 673/675 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.77 (s,1H), 8.46-8.42 (m,1H), 8.34-8.29 (m,1H), 8.19-8.13 (m,1H), 7.93-7.87 (m, 1H), 7.87-7.82 (m, 1H), 7.73-7.69 (m, 1H), 7.54-7.46 (m, 2H), 7.40-7.35 (m, 1H), 7.17-7.12 (m, 1H), 4.97-4.88 (m, 1H), 3.40-3.32 (m, 1H), 3.22-3.14 (m, 1H).

reactant | 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)Cl)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Br)C=CC(=C2)Br | C22H15Br2ClN4O5S2
